Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
oxaliplatin
 
Attending: ___.
 
Chief Complaint:
Admit for desensitization with oxaliplatin.
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ year old female with KRAS mutated, pMMR
metastatic rectal cancer to the liver and lung s\p 3 cycles of
FOLFOX treatment with palliative intent

 during her ___ cycle of FOLFOX she developed Hives, her 4 cycle
was aborted and she was seen subsequently by allergy. She is
found to be having Ig E mediated hypersensitivity to 
Oxaliplatin.
based on skint testing.

  She feels well this morning and has no symptoms whatsoever. 
She
is pleasant, smiling and can understand a few words of ___.
Her daughter who is a ___ helps translate . She denies fevers
or chills. Denies rashes or trouble breathing.
Answers in negative to all ROS questions.

 
Past Medical History:
PMH: invasive rectal adenocarcinoma, PPD positive; Left breast 
fibroadenoma (last ___ ___ s/p Bx ___ Vit D deficiency  
 PSH: colonoscopy ___ - large rectal mass ~ 8cm from anal 
verge, Bx: invasive adenocarcinoma; left breast biopsy ___ 
(fibroadenoma)  

 
Social History:
___
Family History:
Denies any history of GI or other malignancies.

 
Physical Exam:
admit and DC physical exam (admit for < 24 hours)

General:  NAD
VITAL SIGNS: VS 97.7PO 108 / 60  L Sitting 66 20 100 ra 
HEENT:  MMM,
CV:  RR, NL S1S2 no S3S4 MRG
PULM:  CTAB
ABD:  BS+, soft, NTND, 
LIMBS:  No edema, clubbing, tremors,
SKIN:  No rashes or skin breakdown
Neuro- No focal deficits noted.
 
Pertinent Results:
___ 08:37AM BLOOD WBC-4.9 RBC-3.67* Hgb-10.7* Hct-34.4 
MCV-94 MCH-29.2 MCHC-31.1* RDW-14.6 RDWSD-50.4* Plt ___
___ 08:37AM BLOOD Glucose-105* UreaN-15 Creat-0.5 Na-139 
K-3.7 Cl-103 HCO3-25 AnGap-15
___ 08:37AM BLOOD CEA-5646.0*
 
Brief Hospital Course:
Ms. ___ is a ___ year old female with KRAS mutated, pMMR
metastatic rectal cancer to the liver and lung s\p 3 cycles of
FOLFOX treatment with palliative intent who is admitted for
desensitization to Oxaliplatin.

# Ig E mediated hypersensitivity to Oxaliplatin

     Pt premedicated with Cetirizine, she took 1 pill (10mg last
night and 1 this aM). She received Cetirizine 10mg PO and
25mg IV Benadryl and famotidine 40mg PO prior to exposure,

     3 phases- ___ dose, ___ dose and ___ dose (135 mg
Oxaliplatin)

     she tolerated the infusions well and did not have any new 
rashes or itching or other symptoms. No arrhythmias noted on 
telemetry. 
     

# Metastatic Rectal Cancer
     
     Palliative intent
     S\p 3 cycles of FOLFOX with avastin.
     Cycle 4 aborted due to reaction to Oxaliplatin.
     follow up at clinic tomorrow for rest of her chemotherapy.

Pt has no other issues at this time. Discharged home in a stable 
condition. 
 
Medications on Admission:
DEXAMETHASONE - dexamethasone 4 mg tablet. 3 tablet(s) by mouth
the night before chemotherapy
ERGOCALCIFEROL (VITAMIN D2) [VITAMIN D2] - Vitamin D2 50,000 
unit
capsule. 1 capsule(s) by mouth Twice weekly -  (Prescribed by
Other Provider) (Not Taking as Prescribed: Pt states she is
currently not taking)
ONDANSETRON HCL - ondansetron HCl 8 mg tablet. 1 tablet(s) by
mouth every 8 hours as needed for nausea
PEGFILGRASTIM [NEULASTA] - Neulasta 6 mg/0.6 mL subcutaneous
syringe. 6 mg SC 24- 48 hours after chemo
POLYETHYLENE GLYCOL 3350 - polyethylene glycol 3350 17 gram/dose
oral powder. 17 gram by mouth daily
PROCHLORPERAZINE MALEATE [COMPAZINE] - Compazine 10 mg tablet. 1
tablet(s) by mouth every 6 hours as needed for nausea

 Cetirizine 10mg twice before admission

Medications - OTC
CALCIUM CARBONATE-VITAMIN D3 [CALCIUM 600 + D(3)] - Calcium 600 
+
D(3) 600 mg (1,500 mg)-200 unit tablet. 1 tablet(s) by mouth
twice a day -  (OTC) (Not Taking as Prescribed: Pt states she is
curently not taking)
DOCUSATE SODIUM - docusate sodium 100 mg capsule. 1 capsule(s) 
by
mouth twice a day
 
Discharge Medications:
DEXAMETHASONE - dexamethasone 4 mg tablet. 3 tablet(s) by mouth
the night before chemotherapy
ERGOCALCIFEROL (VITAMIN D2) [VITAMIN D2] - Vitamin D2 50,000 
unit
capsule. 1 capsule(s) by mouth Twice weekly -  (Prescribed by
Other Provider) (Not Taking as Prescribed: Pt states she is
currently not taking)
ONDANSETRON HCL - ondansetron HCl 8 mg tablet. 1 tablet(s) by
mouth every 8 hours as needed for nausea
PEGFILGRASTIM [NEULASTA] - Neulasta 6 mg/0.6 mL subcutaneous
syringe. 6 mg SC 24- 48 hours after chemo
POLYETHYLENE GLYCOL 3350 - polyethylene glycol 3350 17 gram/dose
oral powder. 17 gram by mouth daily
PROCHLORPERAZINE MALEATE [COMPAZINE] - Compazine 10 mg tablet. 1
tablet(s) by mouth every 6 hours as needed for nausea
 
Medications - OTC
CALCIUM CARBONATE-VITAMIN D3 [CALCIUM 600 + D(3)] - Calcium 600 
+
D(3) 600 mg (1,500 mg)-200 unit tablet. 1 tablet(s) by mouth
twice a day -  (OTC) (Not Taking as Prescribed: Pt states she is
curently not taking)
DOCUSATE SODIUM - docusate sodium 100 mg capsule. 1 capsule(s) 
by
mouth twice a day
 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Ig E mediated hypersensitivity to oxaliplatin

 
Discharge Condition:
stable
Alert
Ambulates independently

 
Discharge Instructions:
Dear ___,

 You were admitted for desensitization therapy as you were 
allergic to  Oxaliplatin. You tolerated the medication fairly 
well. It was a pleasure taking care of you. Please call your 
outpatient oncology office if you have any questions.

Sincerely
___ MD
 
Followup Instructions:
___